US06310070B1
An amidation reaction and post-treatment were carried out according to the conditions of Example 1, using 2.2 g (10 mmol) of 4-amino-1-benzyl-5-imidazolecarboxamide prepared in Reference Example 2 and 3-methoxybenzoyl chloride separately prepared according to a conventional method, instead of benzoyl benzoyl chloride, to obtain a crude amide product. The crude amide product was purified by suspension in hot methanol to obtain 0.91 g of 4-(3-methoxybenzoylamino)-1-benzyl-5-imidazolecarboxamide (yield 26%).

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 10 mmol, 2.2 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | 3-methoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | benzoyl benzoyl chloride | C(C1=CC=CC=C1)(=O)C1=C(C(=O)Cl)C=CC=C1 | C14H9ClO2
product | 4-(3-methoxybenzoylamino)-1-benzyl-5-imidazolecarboxamide | 0.91 g, yield 26% | COC=1C=C(C(=O)NC=2N=CN(C2C(=O)N)CC2=CC=CC=C2)C=CC1 | C19H18N4O3
